US08563567B2
Synthesis of 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-5-phenyl-1,3,4-oxadiazole (57)
2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-5-phenyl-1,3,4-oxadiazole was synthesized as outlined in General Procedure J using 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid and benzohydrazide. The crude product was purified using reverse phase chromatography (HPLC, C-18) using trifluoroacetic acid as a modifier to give the desired product 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-5-phenyl-1,3,4-oxadiazole as a yellow solid. Mp=155-157° C.; 400 MHz 1HNMR (DMSO-d6) δ 8.31 (s, 1H), 8.13-8.10 (m, 2H), 7.90 (d, J=8.0 Hz, 1H), 7.65-7.63 (m, 3H), 7.21 (t, J=6.8 Hz, 1H), 7.06 (d, J=7.6 Hz, 1H), 4.31 (t, J=5.6 Hz, 2H), 2.99 (t, J=6.0 Hz, 2H), 2.21-2.18 (m, 2H); LCMS [M+H]: 302.

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | C1(=CN2CCCC3=CC=CC1=C23)C(=O)O | C12H11NO2
reactant | benzohydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-5-phenyl-1,3,4-oxadiazole | C1(=CN2CCCC3=CC=CC1=C23)C=2OC(=NN2)C2=CC=CC=C2 | C19H15N3O
